US06841079B2
To a mixture of 19.52 g of CF3(CF2)3(CH2)10CH2OH and 200 mL of 48 weight percent aqueous hydrobromic acid was slowly added 20 mL of concentrated sulfuric acid. The reaction mixture was heated at 100° C. for 24 hr, and poured into 1 liter of water. The mixture was extracted with hexanes, and the combined organic phases were washed with saturated aqueous sodium bicarbonate and dried over anhydrous magnesium sulfate. The solution was concentrated to an amber liquid, which was eluted through 3 inches of silica with hexanes. Concentration of the eluent yielded a light amber liquid, and bulb-to-bulb distillation gave 19.82 g of CF3(CF2)3(CH2)10CH2Br as a clear, colorless liquid, b.p. 120-170° C. at 0.06 torr (8 Pa).

reactant | CF3(CF2)3(CH2)10CH2OH | 19.52 g | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)CCCCCCCCCCCO | C15H23F9O
reactant | hydrobromic acid | Br | BrH
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 liter | O | H2O
product | CF3(CF2)3(CH2)10CH2Br | 19.82 g | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)CCCCCCCCCCCBr | C15H22BrF9
